US03948895
A slurry consisting of 7.00 g (43.8 mmol) of 3,5-diamino-2,6-dicyanopyrazine in 1.2l of water in which was dissolved 3.50 g (97.6 mol) of sodium hydroxide was heated rapidly to reflux. The reaction mixture became homogeneous within 3 min at reflux, followed in 1 min by the precipitation of 3,5-diamino-2,6-dicarbamoylpyrazine. After a total of 3 hr 10 min at reflux a homogeneous solution was again obtained. Reflux was continued for an additional 40 min as a stream of nitrogen was passed through the reaction medium to eliminate any residual ammonia. Cooling in an ice bath resulted in the precipitation of 3.30 g (16.9 mmol) of 3,5-diamino-2,6-dicarbamoylpyrazine which was collected by filtration and oven dried. Acidification of the filtrate to pH 3 with hydrochloric acid gave 5.00 g (24.4 mmol) of 3,5-diamino-6-carbamoylpyrazinoic acid after collection by filtration and oven drying. This represents a 61% conversion and 94% yield of the amide acid.

reactant | 3,5-diamino-2,6-dicyanopyrazine | 43.8 mmol, 7.00 g | NC=1C(=NC(=C(N1)N)C#N)C#N | C6H4N6
reactant | sodium hydroxide | 97.6 mol, 3.50 g | [OH-].[Na+]
reactant | ammonia | N | H3N
reactant | water | 1.2l | O | H2O
product | 3,5-diamino-2,6-dicarbamoylpyrazine | 16.9 mmol, 3.30 g | NC=1C(=NC(=C(N1)N)C(N)=O)C(N)=O | C6H8N6O2
